US08012986B2
2-Chloro-4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-1H-pyrimidin-2-one (10.0 g, 35.6 mmol) and phosphoroxychloride (50 ml) according to the general procedure I. Obtained as a brown oil (10.4 g, 98%). MS (EI) 298.0, 299.9 [(M)+].

reactant | 4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-1H-pyrimidin-2-one | 35.6 mmol, 10.0 g | ClC1=CC=C(S1)C1=NC(NC(=C1)C(F)(F)F)=O | C9H4ClF3N2OS
reactant | phosphoroxychloride | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(5-chloro-thiophen-2-yl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C=1SC(=CC1)Cl)C(F)(F)F | C9H3Cl2F3N2S
